US07429581B2
(ii) 4-Cyano-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester
1.5 g (4.9 mmol) of 4-Iodo-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester, 0.87 g (9.7 mmol) of copper cyanide and 404 mg (2.4 mmol) of tetraethylammonium cyanide were dissolved in 10 ml of DMF and 20 ml of tetrahydrofuran and the solution was degassed with argon. 223 mg (0.2 mmol) of Tris(dibenzylideneacetone)dipalladium (0) and 404 mg (0.7 mmol) of 1,1′-bis-(diphenylphosphino) ferrocene were added at RT. The reaction was stirred at 120° C. for 5 h. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and this solution was washed with saturated aqueous sodium bicarbonate. The organic phase was dried with sodium sulfate, filtered and the solvent was removed under reduced pressure. The product was purified by silica gel chromatography eluting with n-heptane:ethyl acetate/ 1:1.

reactant | 4-Iodo-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester | 4.9 mmol, 1.5 g | C(C)OC(=O)C=1NN=C(C1I)CCC | C9H13IN2O2
reactant | copper cyanide | 9.7 mmol, 0.87 g | [Cu](C#N)C#N
catalyst | tetraethylammonium cyanide | 2.4 mmol, 404 mg | [C-]#N.C(C)[N+](CC)(CC)CC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.2 mmol, 223 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis-(diphenylphosphino) ferrocene | 0.7 mmol, 404 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-Cyano-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1C#N)CCC | C10H13N3O2
